US05610161
A mixture of ethyl 1-aminocyclohexanecarboxylate (669 g), potassium carbonate (683.1 g) and ethyl 4-bromobutyrate (558 ml) was stirred at 130° C. for 18 hours, then cooled to ambient temperature and poured onto ice-water (3 l). The product was extracted into dichloromethane and the combined extracts were dried over sodium sulphate and the solvent was removed in vacuo to yield ethyl 1-(3-ethoxycarbonylpropylamino)cyclohexanecarboxylate as a brown/orange oil. Yield 943.2 g.

reactant | ethyl 1-aminocyclohexanecarboxylate | 669 g | NC1(CCCCC1)C(=O)OCC | C9H17NO2
reactant | potassium carbonate | 683.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 4-bromobutyrate | 558 ml | BrCCCC(=O)OCC | C6H11BrO2
product | ethyl 1-(3-ethoxycarbonylpropylamino)cyclohexanecarboxylate | C(C)OC(=O)CCCNC1(CCCCC1)C(=O)OCC | C15H27NO4
